US06235731B1
Concentrated hydrochloric acid (0.8 ml) was added to a stirred solution of N-[3-[4-(3-phenylpropan-1-yl)-2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide (261 mg, 0.549 mmol) in ethanol (5.0 ml) at room temperature. After stirring at room temperature for 1 hour, the reaction mixture was concentrated in vacuo to give N-[3-[4-(3-phenylpropan-1-yl)-2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride as an orange amorphous powder(295 mg, 98%).

reactant | hydrochloric acid | 0.8 ml | Cl | ClH
reactant | N-[3-[4-(3-phenylpropan-1-yl)-2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.549 mmol, 261 mg | C1(=CC=CC=C1)CCCN1CC(N(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)=O | C26H29N5O2S
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | N-[3-[4-(3-phenylpropan-1-yl)-2-oxopiperazin-1-yl]propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CC(N(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)=O | InChI=1S/C26H29N5O2S.2ClH/c32-24-19-29(13-5-9-20-7-2-1-3-8-20)15-16-30(24)14-6-12-27-26(33)22-17-21-18-28-23-10-4-11-25(34-22)31(21)23;;/h1-4,7-8,10-11,17-18H,5-6,9,12-16,19H2,(H,27,33);2*1H
